US07691882B2
2-(4-(2-Nitro-ethyl)-phenoxy)-pyridine
To a solution of 2-(4-((E)-2-nitro-vinyl)-phenoxy)-pyridine (9.9 g, 41 mmol) described in Manufacturing Example 209-1-2, acetic acid (2.5 g) and dimethyl sulfoxide (60 mL) was added sodium borohydride (770 mg, 20 mmol) while the temperature was held at 30° C. or lower, which was stirred for 15 minutes at room temperature. This reaction solution was partitioned into ethyl acetate and water while the temperature was held at 30° C. or lower. The organic layer was separated and concentrated under reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=3:1) to obtain the title compound (4.5 g, 45%).

reactant | 2-(4-((E)-2-nitro-vinyl)-phenoxy)-pyridine | 41 mmol, 9.9 g | [N+](=O)([O-])/C=C/C1=CC=C(OC2=NC=CC=C2)C=C1 | C13H10N2O3
reactant | acetic acid | 2.5 g | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 20 mmol, 770 mg | [BH4-].[Na+]
solvent | dimethyl sulfoxide | 60 mL | CS(=O)C | C2H6OS
product | 2-(4-(2-Nitro-ethyl)-phenoxy)-pyridine | 4.5 g, 45% | [N+](=O)([O-])CCC1=CC=C(OC2=NC=CC=C2)C=C1 | C13H12N2O3
